US05741800
A mixture of 3-phenylpropionic acid (29.5 g) and thionyl chloride (35 ml) in dry toluene (100 ml) was heated under reflux at 80°-100° C. for two hours. The mixture was then evaporated. The residue was treated with two portions of toluene and the resultant solution was evaporated on each occasion yielding an oil which was then dissolved in dry dichloromethane (50 ml). The solution was added dropwise to a stirred solution of 4-piperidine-ethanol (25.2 g) and triethylamine (22.2 g) in dichloromethane (250 ml) at 0° C. over one hour, maintaining the temperature at 0° C. The mixture was allowed to warm to 20° C. and was stirred for 18 hours and then washed with saturated sodium bicarbonate solution. The organic layer was separated and evaporated to dryness. The residue was dissolved in dioxan (20 ml) and 1M sodium hydroxide solution (20 ml) was then added. The solution was stirred at 20° C. for 20 hours and then stirred at 40° C. for a further 4 hours. The solution was evaporated and the residue treated with dilute sodium hydroxide solution and then extracted with ethyl acetate. The combined ethyl acetate extracts were washed (dilute hydrochloric acid, brine), dried and evaporated to give 4-(2-hydroxyethyl)-1-(3-phenylpropionyl)piperidine as an oil.

reactant | 3-phenylpropionic acid | 29.5 g | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | thionyl chloride | 35 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-piperidine-ethanol | 25.2 g | N1CCC(CC1)CCO | C7H15NO
reactant | triethylamine | 22.2 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 4-(2-hydroxyethyl)-1-(3-phenylpropionyl)piperidine | OCCC1CCN(CC1)C(CCC1=CC=CC=C1)=O | C16H23NO2
